US09193692B2
C. 7-Bromo-1-(((trans)-4-methoxycyclohexyl)methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
A solution of ethyl 2-(3,5-dibromopyrazin-2-ylamino)acetate (500 mg, 1.47 mmol), ((trans)-4-methoxycyclohexyl)methanamine (317 mg, 2.21 mmol) and diisopropylethyl amine (0.77 mL, 4.42 mmol) in anhydrous dimethylsulfoxide (8.0 mL) was placed in a microwave vessel (20 mL). The reaction was heated to 150° C. for 1 h. The reaction was poured into water, extracted with ethyl acetate (2×100 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure. The resulting material was dissolved in acetic acid (30 mL) and placed in a sealed tube. The reaction was heated to 120° C. overnight. The solution was cooled, concentrated under reduced pressure, neutralized with saturated sodium bicarbonate, extracted with ethyl acetate (3×100 mL), dried over sodium sulfate, filtered and adsorbed onto silica gel. Purification by flash chromatography (50% ethyl acetate in hexanes) gave a light orange solid (400 mg, 1.12 mmol, 76% yield). MS (ESI) m/z 355.2 [M+]+, 357.2 {M+2]+.

reactant | ethyl 2-(3,5-dibromopyrazin-2-ylamino)acetate | 1.47 mmol, 500 mg | BrC=1C(=NC=C(N1)Br)NCC(=O)OCC | C8H9Br2N3O2
reactant | ((trans)-4-methoxycyclohexyl)methanamine | 2.21 mmol, 317 mg | CO[C@@H]1CC[C@H](CC1)CN | C8H17NO
reactant | diisopropylethyl amine | 4.42 mmol, 0.77 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 8.0 mL | CS(=O)C | C2H6OS
product | 7-Bromo-1-(((trans)-4-methoxycyclohexyl)methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1.12 mmol, 400 mg, 76% yield | BrC1=CN=C2C(=N1)N(C(CN2)=O)C[C@@H]2CC[C@H](CC2)OC | C14H19BrN4O2
